US06350771B1
In a manner similar to that employed in Example 12 an ethanol solution of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime was reacted with sodium ethoxide and acrylonitrile to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(2-cyanoethyl)oxime. Compound 28, as the 85 percent (by weight) component of a mixture containing 8 percent of the oxime starting material. Mass spectrometric analysis of the product indicated the following: MS m/e=453 (M+).

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(2-cyanoethyl)oxime | C(#N)CCON=CC1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H12Cl2F3N5O2S
